US07994209B2
(S)-3-((S)-1-Hydroxybutyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester
(S)-3-Formylpyrrolidine-1-carboxylic acid t-butyl ester (2.2 g, 11 mmol) and THF (20 mL, 300 mmol) were combined under nitrogen, and the resulting solution was cooled to −78° C. 2.0M Propylmagnesium chloride in ether (11.0 mL, 22.1 mmol) was then added dropwise over 1 hour. The mixture was allowed to warm to room temperature slowly overnight. Then saturated aqueous NH4Cl (20 mL) was added dropwise to quench the reaction. The resulting mixture was extracted with EtOAc (2×50 mL), and the combined organic layers were washed with saturated aqueous NaHCO3 (1×100 mL) and saturated aqueous NaCl (1×100 mL), then dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to yield a pale, yellow oil (2.6 g). The oil was purified by preparative HPLC in two equal batches of 1.3 g loading in 1:1 AcOH/H2O (6 mL). The diastereomers were separated by gradient (5-70% MeCN/H2O; 0.05% TFA; over 70 minutes on a 2″ BDS column). The fractions for peak 1 were collected and lyophilized to yield an oil. The fractions for peak 2 were lyophilized then repurified. Both products were identified as clean by NMR and HPLC and identified for mass by LCMS:

reactant | (S)-3-Formylpyrrolidine-1-carboxylic acid t-butyl ester | 11 mmol, 2.2 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C=O | C10H17NO3
reactant | THF | 300 mmol, 20 mL | C1CCOC1 | C4H8O
reactant | Propylmagnesium chloride | 2.0M | C(CC)[Mg]Cl
reactant | ether | 22.1 mmol, 11.0 mL | CCOCC | C4H10O
solvent | NH4Cl | 20 mL | [NH4+].[Cl-]
product | (S)-3-((S)-1-Hydroxybutyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester | 2.6 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](CCC)O | C13H25NO3
